US08791132B2
2-(2-Chloropyridin-3-yl)-1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol (100 mg, 0.277 mmol) and crushed potassium hydroxide (106 mg, 1.89 mmol) in 3 mL tert. butanol were heated at 90° C. for 4 h. The reaction mixture was monitored by TLC and LCMS. The reaction mixture was cooled at RT, diluted with 100 mL brine solution and extracted with EtOAc (3×100 mL). The combined organic layer was washed with brine (3×100 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by reverse phase chromatography to get the 35 mg of 3-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridin-2(1H)-one as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.79 (d, 1H), 7.35 (m, 2H), 7.17 (s, 1H), 6.93 (d, 1H), 6.34 (t, 1H), 4.61 (d, 2H), 4.3 (d, 2H), 3.9 (m, 1H), 3.8 (m, 1H), 3.36 (m, 2H), 3.1 (s, 3H), 2.37 (s, 3H), 1.51 (s, 3H). Separation by chiral HPLC provides enantiomers II-143a-b.

reactant | 2-(2-Chloropyridin-3-yl)-1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol | 0.277 mmol, 100 mg | ClC1=NC=CC=C1C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(C)O | C21H24ClN3O
reactant | potassium hydroxide | 1.89 mmol, 106 mg | [OH-].[K+]
solvent | tert. butanol | 3 mL | C(C)(C)(C)O | C4H10O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 3-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridin-2(1H)-one | 35 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C(NC=CC2)=O)CC1 | C21H25N3O2
